US04672066
A mixture of 1.5 g of 1-[4-(3-bromopropoxy)-3-hydroxy-2-propylphenyl]ethanone, 0.79 g of ethyl 3-hydroxybenzoate and 1.0 g of potassium carbonate was allowed to react according to Example 79 to give 1.6 g (83% yield) of 3-[3-(4-Acetyl-3-hydroxy-2-propylphenoxy)propoxy]benzoic acid ethyl ester, the title compound as an oil.

reactant | 1-[4-(3-bromopropoxy)-3-hydroxy-2-propylphenyl]ethanone | 1.5 g | BrCCCOC1=C(C(=C(C=C1)C(C)=O)CCC)O | C14H19BrO3
reactant | ethyl 3-hydroxybenzoate | 0.79 g | OC=1C=C(C(=O)OCC)C=CC1 | C9H10O3
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
product | 3-[3-(4-Acetyl-3-hydroxy-2-propylphenoxy)propoxy]benzoic acid ethyl ester | 1.6 g, 83% yield | C(C)OC(C1=CC(=CC=C1)OCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)=O | C23H28O6
